US07259183B2
Preparation of [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-propyl]-amine
618 mg of [rac]-2-(4-chloro-phenyl)-propylamine hydrochloride (3 mmol) were dissolved in 8 ml methanol at rt and treated with 415 mg of potassium carbonate (3 mmol) and after 5 min stirring treated with 0.755 ml of 4-tert-butylbenzaldehyde (4.5 mmol). After 30 min stirring at rt, the reaction mixture was refluxed for 3 h, and After cooling down to rt, treated with 170 mg (4.5 mmol) sodium borohydride in portions. After 10 min at rt, the reaction mixture was refluxed for 20 h. After cooling down to rt, the reaction mixture was treated with 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:2) to give 753 mg light brown oil (79%). MS(ISP) 316.3 (M+H)+.

reactant | [rac]-2-(4-chloro-phenyl)-propylamine hydrochloride | 3 mmol, 618 mg | Cl.ClC1=CC=C(C=C1)C(CN)C
reactant | potassium carbonate | 3 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-tert-butylbenzaldehyde | 4.5 mmol, 0.755 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | sodium borohydride | 4.5 mmol, 170 mg | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-propyl]-amine | 753 mg, 79% | C(C)(C)(C)C1=CC=C(CNCC(C)C2=CC=C(C=C2)Cl)C=C1 | C20H26ClN
